US08119805B2
Stage (iv): 2-(Iodomethyl)-1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidine
(1-(4-Methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methyl methanesulfonate (0.25 g, 0.639 mmol) and sodium iodide (0.383 g, 2.554 mmol) were dissolved in acetone (7 ml) and the solution was heated at 120° C. in a microwave oven (CEM Discover; 100 watt) for 1 h. The solvent was removed in vacuo, the residue was dissolved in sodium thiosulfate solution (20 ml, 5 mmol/l) and diethyl ether (40 ml), the phases were separated and the aqueous phase was extracted with diethyl ether (2×20 ml). The combined organic phases were dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel) with hexane/diethyl ether/methylene chloride (3:1:1). Yield: 0.2 g (74%)

reactant | (1-(4-Methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methyl methanesulfonate | 0.639 mmol, 0.25 g | CS(=O)(=O)OCC1N(CCCC1)S(=O)(=O)C1=C(C=C(C=C1C)OC)C | C16H25NO6S2
reactant | sodium iodide | 2.554 mmol, 0.383 g | [I-].[Na+]
solvent | acetone | 7 ml | CC(=O)C | C3H6O
product | 2-(Iodomethyl)-1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidine | ICC1N(CCCC1)S(=O)(=O)C1=C(C=C(C=C1C)OC)C | C15H22INO3S
